US06177154B1
To a 1000 ml three neck flask provided with a stirrer, thermometer, dropping funnel, and nitrogen gas introducing tube were added 9.4 g (386.8 mmol) of magnesium turnings and 20 ml of THF under nitrogen gas atmosphere, and 200 ml solution of 70.0 g (351.6 mmol) of 4-propylbromobenzene in THF was added dropwise while being stirred in 1 hour while the reaction temperature being adjusted at 45 to 55° C. After finishing of the dropping, it was stirred at 55° C. for 2 hours. The reaction mixture thus obtained was cooled down to a temperature lower than 10° C., 133.8 g (1.75 mol) of carbon disulfide was added dropwise thereto in 50 minutes. After finishing of the dropping, it was further stirred at room temperature for 14 hours. The reaction mixture was cooled down to a temperature lower than 5° C., and then 100 ml of 6N hydrochloric acid was added dropwise thereto to terminate the reaction. It was extracted with 300 ml of diethyl ether, and the extract was washed with water (200 ml) thrice, dried over anhydrous magnesium sulfate, and the solvent was distilled off under a reduced pressure to obtain 64.2 g of purplish red oily 4-propyldithiobenzoic acid. 1H-NMR (δ ppm): 0.95 (3H, t, J=7.4 Hz), 1.65 (2H, m), 2.63 (2H, t, J=7.8 Hz), 6.0-6.5 (1H, bs), 7.18 (2H, d, J=8.3 Hz), 7.99 (2H, d, J=8.6 Hz).

reactant | magnesium | 386.8 mmol, 9.4 g | [Mg] | Mg
reactant | 4-propylbromobenzene | 351.6 mmol, 70.0 g | C(CC)C1=CC=C(C=C1)Br | C9H11Br
reactant | carbon disulfide | 1.75 mol, 133.8 g | C(=S)=S | CS2
reactant | hydrochloric acid | 6N, 100 ml | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-propyldithiobenzoic acid | 64.2 g | C(CC)C1=CC=C(C(=S)S)C=C1 | C10H12S2
